US07851072B2
2-(3-bromophenyl)-5-methylpyridine (14.0 g, 61 mmol), phenylboronic acid (8.8 g, 72 mmol), palladium (II) acetate (0.34 g, 1.5 mmol), triphenylphosphine (1.6 g, 6.1 mmol), and potassium carbonate (22.3 g, 162 mmol) were mixed with 120 mL of ethylene glycol dimethyl ether and 80 mL of water in a 500 mL round bottom flask equipped with a temperature probe, reflux condenser, and a magnetic stir bar. The solution was then heated at reflux under nitrogen for 16 hr. The cooled reaction mixture was placed in a separatory funnel, and 100 mL of ethyl acetate was added. The aqueous layer was discarded. The organic layer was extracted twice with a saturated solution of sodium chloride, dried over magnesium sulfate, and evaporated to dryness. After the removal of several impurities by vacuum distillation at 115° C., distillation at 190° C. gave 13.7 g of 2-biphenyl-3-yl-5-methylpyridine as a viscous light yellow liquid, which was further purified on a silica gel column with ethyl acetate/hexane to give 12.8 g (87.1% yield) of 2-biphenyl-3-yl-5-methylpyridine as a white solid.

reactant | 2-(3-bromophenyl)-5-methylpyridine | 61 mmol, 14.0 g | BrC=1C=C(C=CC1)C1=NC=C(C=C1)C | C12H10BrN
reactant | phenylboronic acid | 72 mmol, 8.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | 6.1 mmol, 1.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 162 mmol, 22.3 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium (II) acetate | 1.5 mmol, 0.34 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 80 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 120 mL | COCCOC | C4H10O2
product | 2-biphenyl-3-yl-5-methylpyridine | 13.7 g | C1(=CC(=CC=C1)C1=NC=C(C=C1)C)C1=CC=CC=C1 | C18H15N
